US06063782
7-Benzyloxy-1-cyclopropyl-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound was prepared as a white powder in 78.6% yield in a similar procedure to that described in Example 1 by using 7-chloro-1-cyclopropyl-2,3-dimethylpyrrolo[2,3-d]pyridazine and benzyl alcohol.

reactant | 7-chloro-1-cyclopropyl-2,3-dimethylpyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2C)C)C2CC2 | C11H12ClN3
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 7-Benzyloxy-1-cyclopropyl-2,3-dimethylpyrrolo[2,3-d]pyridazine | 78.6% yield | C(C1=CC=CC=C1)OC=1N=NC=C2C1N(C(=C2C)C)C2CC2 | C18H19N3O
